US03960868
A solution of 6.3 g of thiourea in 300 ml of methanol is added to a solution of 25 g of 3-carboethoxy-4-chloro-6-cycloheptyl-quinoline in 200 ml of ethanol and the mixture is left to stand for 2 days at room temperature. The crude 3-carboethoxy-4-amidinothio-6-cycloheptyl-quinoline-hydrochloride formed, of melting point 280°C (decomposition), is then filtered off.

reactant | thiourea | 6.3 g | NC(=S)N | CH4N2S
reactant | 3-carboethoxy-4-chloro-6-cycloheptyl-quinoline | 25 g | C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1Cl)C1CCCCCC1 | C19H22ClNO2
solvent | methanol | 300 ml | CO | CH4O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-carboethoxy-4-amidinothio-6-cycloheptyl-quinoline-hydrochloride | Cl.C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1SC(N)=N)C1CCCCCC1 | InChI=1S/C20H25N3O2S.ClH/c1-2-25-19(24)16-12-23-17-10-9-14(13-7-5-3-4-6-8-13)11-15(17)18(16)26-20(21)22;/h9-13H,2-8H2,1H3,(H3,21,22);1H
